US07074800B1
Using an analogous procedure to that described in Example 34, 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline (10 mg, 0.34 mmol), (prepared as described for the starting material in Example 9), was reacted with 5-hydroxyindole (55 mg, 0.41 mmol). The crude product was purified by chromatography on alumina, eluting with methanol/ethyl acetate/methylene chloride (5/45/50) to give 4-(indol-5-yloxy)-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline (70 mg, 50%).

reactant | 4-chloro-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline | 0.34 mmol, 10 mg | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C16H20ClN3O2
reactant | 5-hydroxyindole | 0.41 mmol, 55 mg | OC=1C=C2C=CNC2=CC1 | C8H7NO
product | 4-(indol-5-yloxy)-6-methoxy-7-(3-pyrrolidin-1-ylpropoxy)quinazoline | 70 mg, 50% | N1C=CC2=CC(=CC=C12)OC1=NC=NC2=CC(=C(C=C12)OC)OCCCN1CCCC1 | C24H26N4O3
